US07244843B2
Step E. Preparation of 1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one
A mixture of 3-(chloromethyl)-2-(1-chloropropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (from Isomer B, 0.16 g, 0.58 mmol), K2CO3 (0.16 g, 1.2 mmol), and benzylamine (0.075 ml, 0.67 mmol) in diglyme (1.5 ml) was heated at reflux for 6 h. After cooling to room temperature the reaction was transferred to a separatory funnel with ether and water. Extraction with ether and washing the organic layer with water (4×) and brine, and drying over MgSO4 afforded 0.15 g of crude product after evaporation of the solvent. Flash chromatography (SiO2, hexanes to 60% EtOAc in hexanes) afforded pure product (93 mg, 52% yield). MS (ESI) 307 (M+H).

reactant | 3-(chloromethyl)-2-(1-chloropropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.58 mmol, 0.16 g | ClCC1N(C(C2=CC=CC=C2C1)=O)C(CCl)C | C13H15Cl2NO
reactant | K2CO3 | 1.2 mmol, 0.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylamine | 0.67 mmol, 0.075 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | ether | CCOCC | C4H10O
solvent | diglyme | 1.5 ml | COCCOCCOC | C6H14O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1,2,3,4,11,11a-Hexahydro-2-benzyl-4-methyl-pyrazino[1,2-b]isoquinolin-6-one | 93 mg, 52% yield | C(C1=CC=CC=C1)N1CC2N(C(C=3C=CC=CC3C2)=O)C(C1)C | C20H22N2O
